US06727264B1
4-NITROPHENYL(4S)-2-OXO-4-(3,4,5-TRIFLUOROPHENYL)-1,3-OXAZOLIDINE-3-CARBOXYLATE:
Following the procedure for the synthesis of 4-(3,4-difluorophenyl)-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester, 3,4,5-triflourobenzaldehyde yielded the desired product. 1H NMR (400 MHz, CDCl3) δ 8.27 (d, 2H, J=9.0 Hz), 7.31 (d, 2H, J=9.0 Hz), 7.11-7.02 (m, 2H), 5.37 (dd, 1H, J=4.1, 9.0 Hz), 4.81 (apparent t, 1H, J=9.0 Hz), 4.33 (dd, 1H, J=4.1, 9.0 Hz); Anal. Calc. for C16H9F3N2O6: C, 50.27; H, 2.37; N, 7.33. Found: C, 50.56; H, 2.50; N, 7.49.

reactant | 4-(3,4-difluorophenyl)-2-oxo-oxazolidine-3-carboxylic acid-4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(OCC1C1=CC(=C(C=C1)F)F)=O | C16H10F2N2O6
reactant | 3,4,5-triflourobenzaldehyde | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
product | 4-NITROPHENYL(4S)-2-OXO-4-(3,4,5-TRIFLUOROPHENYL)-1,3-OXAZOLIDINE-3-CARBOXYLATE | O=C1OC[C@@H](N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C1=CC(=C(C(=C1)F)F)F | C16H9F3N2O6
